US07772245B2
To a stirred solution of methyl-2-{8-[3-(piperazin-1-ylmethyl)phenyl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl}pyrimidine-5-carboxylate (800 mg, 1.65 mmol) in dry DCM (50 mL) was added 4-dimethylaminopyridine (1.012 g, 8.29 mmol), then methanesulfonyl chloride (0.155 mL, 1.99 mmol) was added at 0° C. and stirred for 10 min. The reaction mass was maintained at room temperature and stirred for 1 h. The progress of the reaction was monitored by TLC and after completion the reaction mass was diluted with water and extracted with DCM. The DCM layer dried over sodium sulfate and concentrated. The residue was purified by column chromatography to give methyl-2-{8-[3-((4-(methylsulfonyl)piperazin-1-yl)methyl)phenyl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl}pyrimidine-5-carboxylate (900 mg, 95.40%) with HPLC purity 95.40%. 1HNMR (200 MHz, CD3OD) δ: 2.62 (t, 4H, 2×CH2), 2.85 (s, 3H, CH3) 3.0 (t, 2H, CH2), 3.22 (t, 4H, 2×CH2), 3.7 (s, 2H, CH2) 3.95 (s, 3H, OCH3), 4.4 (t, 2H, CH2), 5.18 (s, 2H, CH2), 7.2-7.8 (m, 7H, Ar—H), 8.9 (s, 2H, Pyrimidine-H); m/e=561 (M+1).

reactant | methyl-2-{8-[3-(piperazin-1-ylmethyl)phenyl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl}pyrimidine-5-carboxylate | 1.65 mmol, 800 mg | COC(=O)C=1C=NC(=NC1)N1CC2=C(NC=3C=CC(=CC23)C2=CC(=CC=C2)CN2CCNCC2)CC1 | C28H30N6O2
reactant | methanesulfonyl chloride | 1.99 mmol, 0.155 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 8.29 mmol, 1.012 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | methyl-2-{8-[3-((4-(methylsulfonyl)piperazin-1-yl)methyl)phenyl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl}pyrimidine-5-carboxylate | 900 mg, 95.40% | COC(=O)C=1C=NC(=NC1)N1CC2=C(NC=3C=CC(=CC23)C2=CC(=CC=C2)CN2CCN(CC2)S(=O)(=O)C)CC1 | C29H32N6O4S
